US08609680B2
Preparation of 6-(2-{2-[(1R)-5-(2-methylpyrimidin-4-yl)-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]non-7-yl}-2-oxoethyl)-2,3-dihydro[1,4]dioxino[2,3-b]pyridine (3E)
To a mixture of 2-(2,3-dihydro-[1,4]dioxino[2,3-b]pyridin-6-yl) acetic acid (SM-1aj, 27.27 g, 139.73 mmol), dichloromethane (495 mL), and triethylamine (67.74 mL, 468.03 mmol) was added 1,1′-carbonyldiimidazole (22.66 g, 139.73 mmol) at 20° C. and the resulting mixture was heated to 40° C. and stirred for 2 hours. The reaction was charged with 2-[(R)-5-(2-methylpyrimidin-4-yl)-indan-1-yl]-2,7-diazaspiro[3.5]nonane dihydrochloride (3-1 h, 49.50 g, 121.51 mmol). The resulting mixture was stirred at 40° C. for 2 hours, monitoring by HPLC for consumption of amine starting material. The reaction temperature was adjusted below 25° C. and charged with water (1500 mL) and stirred for 5 min. The layers were separated and the organic layer was concentrated to dryness and backfilled with EtOAc (1000 mL) and further concentrated to approximately 300 mL. The resulting thick solution was cooled to 20° C. and stirred until crystals formed. The very thick mixture was diluted with EtOAc (1000 mL) and stirred for 5 min, filtered and dried under vacuum at 45° C. to afford the title compound (21.8 g, 35%). MS (ES+) 512.5 (M+H)+. 1H NMR (CDCl3) δ 1.64-1.75 (m, 4H), 1.90-2.00 (m, 1H), 2.14-2.23 (m, 1H), 2.81 (s, 3H), 2.85-2.94 (m, 1H), 3.08-3.20 (m, 5H), 3.45-3.57 (m, 4H), 3.77 (s, 2H), 3.98 (dd, 1H), 4.22-4.28 (m, 2H), 4.41-4.46 (m, 2H), 6.91 (d, 1H), 7.15 (d, 1H), 7.38 (d, 1H), 7.48 (d, 1H), 7.86 (d, 1H), 7.96 (s, 1H), 8.65 (d, 1H).

reactant | 2-(2,3-dihydro-[1,4]dioxino[2,3-b]pyridin-6-yl) acetic acid | 139.73 mmol, 27.27 g | O1CCOC2=NC(=CC=C21)CC(=O)O | C9H9NO4
reactant | triethylamine | 468.03 mmol, 67.74 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonyldiimidazole | 139.73 mmol, 22.66 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[(R)-5-(2-methylpyrimidin-4-yl)-indan-1-yl]-2,7-diazaspiro[3.5]nonane dihydrochloride | 121.51 mmol, 49.50 g | Cl.Cl.CC1=NC=CC(=N1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCNCC2
solvent | EtOAc | 1000 mL | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 495 mL | ClCCl | CH2Cl2
product | 6-(2-{2-[(1R)-5-(2-methylpyrimidin-4-yl)-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]non-7-yl}-2-oxoethyl)-2,3-dihydro[1,4]dioxino[2,3-b]pyridine | 21.8 g, 35% | CC1=NC=CC(=N1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCN(CC2)C(CC2=CC=C1C(=N2)OCCO1)=O | C30H33N5O3
